US06989382B2
C. Preparation of 1-[5-({2-[(6-amino-5-nitropyridin-2-yl)amino]ethyl}amino)-2′,4′-dichloro-1,1′-biphenyl-2-yl]-4-methylpiperazin-2-one
DEAD (2.5 eq) and PPh3 (2 eq) were added to N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-[(2-hydroxyethyl)-methylamino]acetamide (1 eq) dissolved in THF at room temperature. The reaction was heated to 55° C. for 1 hour until completion was determined by LC/MS. The reaction was concentrated and purified by silica column chromatography, eluting with MeOH in CH2Cl2 (5:95, v/v). After collecting the purified fractions and concentrating, 1-[5-({2-[(6-amino-5-nitropyridin-2-yl)amino]ethyl}amino)-2′,4′-dichloro-1,1′-biphenyl-2-yl]-4-methylpiperazin-2-one was attained as a light yellow glass (LC/MS m/z 531.4 MH+) in quantitative yields.

reactant | DEAD | 2.5 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | PPh3 | 2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-[(2-hydroxyethyl)-methylamino]acetamide | 1 eq | NC1=C(C=CC(=N1)NCCNC1=CC(=C(C=C1)NC(CN(C)CCO)=O)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C24H27Cl2N7O4
solvent | THF | C1CCOC1 | C4H8O
product | 1-[5-({2-[(6-amino-5-nitropyridin-2-yl)amino]ethyl}amino)-2′,4′-dichloro-1,1′-biphenyl-2-yl]-4-methylpiperazin-2-one | NC1=C(C=CC(=N1)NCCNC=1C=CC(=C(C1)C1=C(C=C(C=C1)Cl)Cl)N1C(CN(CC1)C)=O)[N+](=O)[O-] | C24H25Cl2N7O3
